US09260422B2
5-[6-(3-chloro-4-cyclopropoxyphenyl)pyrimidin-4-yl]pyrrolidine-2-carboxylic acid
NaOH (2M solution, 0.04 ml, 0.073 mmol) was added in one portion to a stirred solution of methyl 5-[6-(3-chloro-4-cyclopropoxyphenyl)pyrimidin-4-yl]pyrrolidine-2-carboxylate (0.008 g, 0.02 mmol) in THF (2 ml) and the mixture was stirred at room temperature for 16 hours. After this time, the mixture was concentrated and the resulting residue purified by prep HPLC to give the title compound (0.001 g, 5% yield) as a white solid.

reactant | NaOH | 0.073 mmol, 2M, 0.04 ml | [OH-].[Na+]
reactant | methyl 5-[6-(3-chloro-4-cyclopropoxyphenyl)pyrimidin-4-yl]pyrrolidine-2-carboxylate | 0.02 mmol, 0.008 g | ClC=1C=C(C=CC1OC1CC1)C1=CC(=NC=N1)C1CCC(N1)C(=O)OC | C19H20ClN3O3
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 5-[6-(3-chloro-4-cyclopropoxyphenyl)pyrimidin-4-yl]pyrrolidine-2-carboxylic acid | 0.001 g, 5% yield | ClC=1C=C(C=CC1OC1CC1)C1=CC(=NC=N1)C1CCC(N1)C(=O)O | C18H18ClN3O3
